US09085540B2
To a mixture of tert-butyl (3-{[6-(4-bromophenoxy)-5-carbamoyl-3-ethylpyrazin-2-yl]oxy}phenyl)carbamate (540 mg), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (273 mg), and N,N-dimethylformamide (10 mL) were added a 1,1′-bis(diphenylphosphino)ferrocene palladium (II) dichloride-dichloromethane complex (83 mg) and cesium carbonate (665 mg), followed by reacting at 80° C. for 1 hour. The reaction mixture was left to be cooled, and then ethyl acetate was added thereto. The mixture was washed with water and saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol=1:0-9:1) and silica gel column chromatography (NH2 type, eluent; chloroform:methanol=100:0-98:2) to obtain tert-butyl [3-({5-carbamoyl-3-ethyl-6-[4-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenoxy]pyrazin-2-yl}oxy)phenyl]carbamate (153 mg) as a pale yellow oily substance.

reactant | tert-butyl (3-{[6-(4-bromophenoxy)-5-carbamoyl-3-ethylpyrazin-2-yl]oxy}phenyl)carbamate | 540 mg | BrC1=CC=C(OC2=C(N=C(C(=N2)OC=2C=C(C=CC2)NC(OC(C)(C)C)=O)CC)C(N)=O)C=C1 | C24H25BrN4O5
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 273 mg | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 665 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [3-({5-carbamoyl-3-ethyl-6-[4-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)phenoxy]pyrazin-2-yl}oxy)phenyl]carbamate | 153 mg | C(N)(=O)C=1N=C(C(=NC1OC1=CC=C(C=C1)C=1CCN(CC1)C)OC=1C=C(C=CC1)NC(OC(C)(C)C)=O)CC | C30H35N5O5
